US06093718
1-(4-pyrimidinyl)-4-(ethoxycarbonyl)piperidine (400 mg) in 4 ml tetrahydrofuran was cooled to -70° C and treated with a solution of lithium diisopropylamide (1.0 ml in THF), under an argon atmosphere. After stirring 1.5 hours 1.2 ml of a solution of 1 ml iodomethane in 10 ml THF was added and reaction mixture left to reach room temperature overnight. Water added and extracted twice with ethyl acetate. Organic extract washed with brine and dried over magnesium sulphate, filtered and evaporated to give 1-(4-pyrimidinyl)-4-methyl-4-(ethoxycarbonyl)piperidine (370 mg) as an oil; NMR (CDCl3): 1.24 (s, 3H), 1.28 (t, 3H), 1.38-1.51 (m,2H), 2.14-2.26 (m, 2H), 3.12-3.26 (m, 2H), 4.03-4.14 (m, 2H), 4.2(q,2H), 6.5 (dd, 1H), 8.17 (d. 1H), 8.57 (s, 1H)

reactant | 1-(4-pyrimidinyl)-4-(ethoxycarbonyl)piperidine | 400 mg | N1=CN=C(C=C1)N1CCC(CC1)C(=O)OCC | C12H17N3O2
reactant | lithium diisopropylamide | 1.0 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | iodomethane | 1 ml | IC | CH3I
reactant | Water | O | H2O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-(4-pyrimidinyl)-4-methyl-4-(ethoxycarbonyl)piperidine | 370 mg | N1=CN=C(C=C1)N1CCC(CC1)(C(=O)OCC)C | C13H19N3O2
